US07163940B2
To a stirred solution of of 2-(4-fluorophenyl)-3-(4-pyridyl)-pyrazolo[1,5-α]pyridine (100 mg, 0.346 mmol) in 4 ml of tetrahydrofuran at −78° C. under N2 was added 2.5 M n-butyllithium in hexanes (2 eq.). The mixture was stirred at −78° C. for 30 min and N-bromosuccinimide (2.2 eq.) was then added. The mixture was allowed to warm to room temperature after 30 min and was stirred at room temperature for 1 hr. The mixture was diluted with ether and washed with 1N hydrochloric acid solution. The aqueous layer was basified with 1N sodium hydroxide solution and extracted thoroughly with ether. The combined organic layers were dried on anhydrous magnesium sulfate, filtered and evaporated. Purification by chromatography yielded 7-bromo-2-(4-fluorophenyl)-3-pyridin-4-ylpyrazolo[1,5-α]pyridine as a yellow solid. 1H NMR (CDCl3): δ 8.65 (d, 2H, J=5.0 Hz), 7.56–7.68 (m, 3H), 7.31 (d, 2H, J=5.0 Hz), 7.11–7.30 (m, 4H; MS m/z 368 (M+1).

reactant | 2-(4-fluorophenyl)-3-(4-pyridyl)-pyrazolo[1,5-α]pyridine | 0.346 mmol, 100 mg | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C1=CC=NC=C1 | C18H12FN3
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | N-bromosuccinimide | 2.2 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 7-bromo-2-(4-fluorophenyl)-3-pyridin-4-ylpyrazolo[1,5-α]pyridine | BrC1=CC=CC=2N1N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C18H11BrFN3
